US07812036B2
i)—A solution of 6-nitroindole (25 g, 154 mmol) in dry tetrahydrofuran (900 ml) was cooled to −78° C. and treated with n-butyllithium (2.5 M solution in hexanes, 67.0 ml, 169 mmol). After 20 min. stirring, chloro-triisopropyl-silane (33.0 ml, 155 mmol) was added. The cooling bath was removed and the reaction mixture was stirred for 2 h. The mixture was quenched with water and the product was extracted into ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Column chromatography (heptane/ethyl acetate 95:5) afforded 6-nitro-1-triisopropylsilanyl-1H-indole (41.5 g).

reactant | 6-nitroindole | 154 mmol, 25 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | n-butyllithium | 169 mmol, 2.5 M, 67.0 ml | C(CCC)[Li]
reactant | chloro-triisopropyl-silane | 155 mmol, 33.0 ml | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 6-nitro-1-triisopropylsilanyl-1H-indole | 41.5 g | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)[Si](C(C)C)(C(C)C)C(C)C | C17H26N2O2Si
